US04349684
7-[3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] enanthic acid ethyl ester
The product is obtained as described in example 1 from 1.35 g NaJ (80% suspension in mineral oil), 12.2 g of 1-(4-chlorophenyl)-5-phenyl-4-imidazolin-2-one, 100 cc. of DMF, 8.7 g of 7-chloroenanthic acid ethyl ester and 1.35 g of NaJ. Eluant in chromatographic purification: hexane/ethyl acetate.

reactant | 1-(4-chlorophenyl)-5-phenyl-4-imidazolin-2-one | 12.2 g | ClC1=CC=C(C=C1)N1C(NC=C1C1=CC=CC=C1)=O | C15H11ClN2O
reactant | 7-chloroenanthic acid ethyl ester | 8.7 g | C(C)OC(CCCCCCCl)=O | C9H17ClO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-[3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] enanthic acid ethyl ester | C(C)OC(CCCCCCN1C(N(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O)=O | C24H27ClN2O3
